US07678795B2
3-[1-(4-Fluoro-phenyl)-5-trifluoromethyl-1H-pyrazol-4-yl]-5,6,7,8,9,10-hexahydro-cycloocta[c]pyridazine
off-white solid. MS (EI): 390.1 (M+). Prepared from cyclooctane-1,2-dione, {2-[1-(4-Fluoro-phenyl)-5-trifluoromethyl-1H-pyrazol-4-yl]-2-oxo-ethyl}-phosphonic acid dimethyl ester, hydrazine monohydrate.

reactant | cyclooctane-1,2-dione | C1(C(CCCCCC1)=O)=O | C8H12O2
reactant | {2-[1-(4-Fluoro-phenyl)-5-trifluoromethyl-1H-pyrazol-4-yl]-2-oxo-ethyl}-phosphonic acid dimethyl ester | COP(OC)(=O)CC(=O)C=1C=NN(C1C(F)(F)F)C1=CC=C(C=C1)F | C14H13F4N2O4P
reactant | hydrazine monohydrate | O.NN
product | 3-[1-(4-Fluoro-phenyl)-5-trifluoromethyl-1H-pyrazol-4-yl]-5,6,7,8,9,10-hexahydro-cycloocta[c]pyridazine | FC1=CC=C(C=C1)N1N=CC(=C1C(F)(F)F)C1=CC2=C(N=N1)CCCCCC2 | C20H18F4N4
